US06455587B1
Preparation of Nε-(2-Bromobenzenesulfonyl)-Nα-(9-fluorenylmethoxycarbonyl)-L-lysine (Compound No. 24)
Nα-(9-fluorenylmethoxycarbonyl)-L-lysine was reacted with 2-bromobenzenesulfonyl chloride under the conditions used in example 2 giving 61% of the title compound.

reactant | Nα-(9-fluorenylmethoxycarbonyl)-L-lysine | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CCCCN)C(=O)O | C21H24N2O4
reactant | 2-bromobenzenesulfonyl chloride | BrC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4BrClO2S
product | Nε-(2-Bromobenzenesulfonyl)-Nα-(9-fluorenylmethoxycarbonyl)-L-lysine | 61% | BrC1=C(C=CC=C1)S(=O)(=O)NCCCC[C@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)O | C27H27BrN2O6S
